US04263291
Dimethylformamide (0.34 g.) was added to dry ethyl acetate (1 ml.), and then phosphorus oxychloride (0.72 g.) was added thereto under 10° C. The mixture was stirred at -5° C. to solidify. Dry ethyl acetate (10 ml.) was added thereto and 2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetic acid (syn isomer) (0.8 g.) was added to the mixture at 0° C., after which the resulting mixture was stirred for 30 minutes at the same temperature. On the other hand, trimethylsilylacetamide (4.9 g.) was added to a suspension of 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.54 g.) in dry ethyl acetate (30 ml.), and the mixture was stirred for 1 hour at 40° C. to give a clear solution. To this solution was added dropwise at -20° C. the above-obtained ethyl acetate solution, and the mixture was stirred for 1 hour at the same temperature. The reaction mixture was ost-treated according to a similar manner to that of Example 12 to give pale yellow powder of 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.9 g.).

reactant | phosphorus oxychloride | 0.72 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetic acid | 0.8 g | CON=C(C(=O)O)C=1N=NSC1 | C5H5N3O3S
reactant | trimethylsilylacetamide | 4.9 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.54 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | Dimethylformamide | 0.34 g | CN(C=O)C | C3H7NO
product | 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.9 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N=NSC1 | C15H15N9O5S3
